Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
cough, fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of follicular
lymphoma, diagnosed in ___, who was transferred from an OSH
for cough and neutropenic fever.

The patient reports that she began to feel unwell on ___ when
she noticed worsening dry cough and general malaise. She feels
like she has had decreased energy and overall has felt unwell.
She received a course of azithromycin with no improvement. The
patient took her temperature at home and had a fever of 100.9, 
so
she went to the ED in ___ for evaluation. In ___, 
her
temperature was 100.1. Chest x-ray in the ___ showed
evidence of possible pneumonia. Given this, she was transferred
to ___ for further care. Of note, she received IV cefepime in
___ prior to transfer and IV vancomycin en route.

In the ED, initial VS were T 98.8, HR 66, BP 115/64, RR 18, O2
97%RA. Initial labs were notable for WBC 2.0 (ANC 120), HCT
33.4, PLT 258, unremarkable Chem-10 and unremarkable LFTs. UA 
was
negative. Lacatate 0.8. Patient was given guaifenesin and
admitted to ___ for further management.

On arrival to the floor, the patient reiterated the above story.
Currently, she continues to be bothered by her dry cough that 
she
describes as non-productive and non-bloody. Her cough has also
led to her feeling chest soreness. She also notes fatigue over
the past several days, but is otherwise doing well.  She states
her sister she was recently with may have had similar symptoms. 
She does not report chills, shortness of breath, nausea,
vomiting, abdominal pain, diarrhea, and constipation.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
Diagnosed with follicular lymphoma in ___ in the setting of
underarm swelling.  Receives her primary oncology care at
___ with Dr. ___. 
Received CHOP induction chemotherapy beginning in ___ for 6
months.  Now taking obinutuzumab every other month+atezolizumab
monthly for maintenance.

As per the clinical trial nurse at ___, she was noted to
have a dry cough in ___.  She was seen by ENT who felt that 
it
might be due to reflux and she was started on Nexium.  Patient
had restaging CT in ___.
 
PAST MEDICAL HISTORY:
- Follicular lymphoma
 
Social History:
___
Family History:
Father has history of RCC in his ___, still alive and in his 
___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 97.9 PO 106 / 64 76 18 98 RA 
GENERAL: Pleasant, middle-aged female lying comfortably in bed. 
In no acute distress.  Intermittently coughing during the
interview.
HEENT: No conjunctival pallor.  Anicteric sclerae.  Moist mucous
membranes.  Oropharynx clear without erythema or exudates.
CV: Regular rate and rhythm.  Normal S1 and S2.  No murmurs,
rubs, gallops, or thrills.
PULM: Clear to auscultation bilaterally.  No wheezes, rales, or
rhonchi.  Good inspiratory effort.
GI: Normal bowel sounds; nondistended; soft,
nontender without rebound or guarding; no hepatomegaly, no
splenomegaly.
EXT: Warm well perfused.  No clubbing, cyanosis, or lower
extremity edema.
NEURO: A&Ox3.  Moving all 4 extremities with purpose.  Normal
gait.
SKIN: No rashes, lesions, petechiae, or ecchymoses

DISCHARGE PHYSICAL EXAM:
VS: 98.1, 102 / 68, 73, 18, 94 RA 
- VS stable and wnl 

GENERAL: Resting comfortably in bed in no acute distress.
HEENT: No conjunctival pallor.  Anicteric sclerae.  Moist mucous
membranes.  Oropharynx clear without erythema or exudates.
CV: Regular rate and rhythm.  Normal S1 and S2.  No murmurs,
rubs, gallops, or thrills.
PULM: Clear to auscultation bilaterally.  No wheezes, rales, or
rhonchi.  
GI: Normal bowel sounds; nondistended; soft, nontender without
rebound or guarding; no hepatomegaly, no splenomegaly.
EXT: Warm well perfused.  No clubbing, cyanosis, or lower
extremity edema.
NEURO: A&Ox3.  Moving all 4 extremities with purpose.  
SKIN: No rashes, lesions, petechiae, or ecchymoses

 
Pertinent Results:
ADMISSION LABS:
___ 02:00AM   WBC-2.0* RBC-3.66* HGB-10.6* HCT-33.4* MCV-91 
MCH-29.0 MCHC-31.7* RDW-12.3 RDWSD-41.6
___ 02:00AM   NEUTS-4* BANDS-2 ___ MONOS-43* EOS-7 
BASOS-2* ___ MYELOS-0 AbsNeut-0.12* AbsLymp-0.84* 
AbsMono-0.86* AbsEos-0.14 AbsBaso-0.04
___ 02:00AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 02:00AM   PLT SMR-LOW* PLT COUNT-258
___ 02:00AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 02:16AM   LACTATE-0.8
___ 02:00AM   GLUCOSE-111* UREA N-6 CREAT-0.7 SODIUM-141 
POTASSIUM-4.2 CHLORIDE-104 TOTAL CO2-22 ANION GAP-15
___ 02:00AM   ALT(SGPT)-16 AST(SGOT)-19 LD(___)-154 ALK 
PHOS-52 TOT BILI-0.3
___ 02:00AM   ALBUMIN-3.7 CALCIUM-8.5 PHOSPHATE-2.8 
MAGNESIUM-2.0 URIC ACID-3.6

DISCHARGE LABS:
___ 06:30AM BLOOD WBC-3.0* RBC-3.80* Hgb-11.1* Hct-34.3 
MCV-90 MCH-29.2 MCHC-32.4 RDW-12.4 RDWSD-41.2 Plt ___
___ 06:30AM BLOOD Neuts-46 Bands-4 ___ Monos-12 Eos-5 
Baso-0 ___ Metas-4* Myelos-4* AbsNeut-1.50* AbsLymp-0.75* 
AbsMono-0.36 AbsEos-0.15 AbsBaso-0.00*
___ 06:30AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-OCCASIONAL Macrocy-NORMAL Microcy-NORMAL 
Polychr-OCCASIONAL Ovalocy-OCCASIONAL
___ 06:30AM BLOOD Plt Smr-NORMAL Plt ___
___ 06:30AM BLOOD Glucose-104* UreaN-12 Creat-0.8 Na-141 
K-4.5 Cl-101 HCO3-27 AnGap-13
___ 06:30AM BLOOD ALT-18 AST-19 LD(LDH)-148 AlkPhos-54 
TotBili-<0.2
___ 06:30AM BLOOD Albumin-3.9 Calcium-8.8 Phos-4.0 Mg-2.1

IMAGING/STUDIES:
CT Chest (___): Multifocal broncho centric infection, most 
pronounced in the lingula.  Differential diagnosis includes 
virtually all kinds of organisms, but includes fungi and 
viruses.  Unusual right axillary adenopathy, partially 
calcified.  Ultrasound or contrast CT is recommended to exclude 
vascular involvement before sampling.

MICRO: Blood cultures negative. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of follicular 
lymphoma, diagnosed in ___, s/p CHOP induction and now on 
obinutuzumab +atezolizumab, who was transferred from an OSH for 
cough and neutropenic fever.

ACUTE ISSUES

#Cough
#Neutropenic fever: While the patient had sub-acute cough for 
the
past ___ months, on her initial presentation it was considerably
more frequent and bothersome. Given her low grade fever at the 
OSH, and profound neutropenia, she was transferred to ___ for 
further care. CXR from the OSH showed possible pneumonia focus. 
CT at ___ confirmed possible a pneumonia focus in lingula, but 
no evidence of pneumonitis. The patient was initially started on 
cefepime+Levaquin before being transitioned to just Levaquin 
given her stability. Her cough began to improve, particularly 
with increasing the dose of the patient's PPI. She likely had a 
super-imposed viral infection on chronic GERD. Given the 
patient's extended time outdoors in ___ and ___, a 
tick-borne illness panel was also sent, as well as a respiratory 
viral panel. Patient was flu and Legionella negative.

#Follicular lymphoma: Patient has a history grade 3A follicular 
lymphoma s/p CHOP induction and now on obinutuzumab + 
atezolizumab maintenance. Her neutropenia was likely due to one 
or both of these medications, though was not previously detected 
given her clinical trial does not check mid-cycle labs. Her ANC 
gradually improved to 1500 at the time of discharge.

CHRONIC ISSUES
NONE

TRANSITIONAL ISSUES
[]will need f/u CT chest to evaluate for resolution of 
infection. 
[]will need ___, Lyme antibody, Ehrlichia, Babesia, 
respiratory viral panel PCR, urine strep, beta glucan, and
galactomannan
[]should avoid air travel for the immediate future given 
neutropenia
[]follow-up should be scheduled with Dr. ___ at 
___
[]will be on Levaquin to complete 10 day course (scheduled to 
end on XX/XX/XX)

FULL CODE
EMERGENCY CONTACT: ___ (husband) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone 50 mg PO QHS 
2. eszopiclone 3 mg oral QHS:PRN 
3. Citalopram 40 mg PO DAILY 
4. ValACYclovir 500 mg PO Q24H 

 
Discharge Medications:
1.  Levofloxacin 750 mg PO DAILY 
RX *levofloxacin [Levaquin] 750 mg 1 tablet(s) by mouth 1x / day 
Disp #*3 Tablet Refills:*0 
2.  Omeprazole 40 mg PO DAILY  
3.  Citalopram 40 mg PO DAILY  
4.  eszopiclone 3 mg oral QHS:PRN  
5.  TraZODone 50 mg PO QHS  
6.  ValACYclovir 500 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
follicular lymphoma
neutropenic fever

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

Why was I in the hospital?
- You were having a persistent cough and fever
- You had a very low neutrophil count, which put you at high 
risk for infection

What was done while I was in the hospital?
- You were started on antibiotics in case you had a bacterial 
infection or pneumonia
- We increased your dose of anti-reflux medication, which helped 
improve your cough
- We monitored your white blood cell and neutrophil counts

What should I do when I get home from the hospital?
- Continue to take all of your medications as prescribed
- Finish your antibiotic (Levofloxacin)
- Be sure to go to your next appointment with Dr. ___
- ___ you have fevers, chills, worsening cough, or generally feel 
unwell, please call your oncologist or go to the emergency room

Sincerely,
Your ___ Treatment Team
 
Followup Instructions:
___